US05342846
1-Cyclopropyl-6-fluoro-7-[3-(1,2,3-triazol-1-yl)piperidin -1-yl]-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid
A mixture of ethyl 1-cyclopropyl-6-fluoro-7-[3-(1,2,3-triazol-1-yl)piperidin-1-yl]-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylate (90 mg, 0.21 mmol) and 6N-HCl (5 ml) was heated to 100°-110° C. for 6 hrs. The mixture was concentrated and the residue was diluted with water. The pH of aqueous solution was adjusted to 7 by the addition of NH4OH and thus separated solid was filtered, washed with water, acetonitrile and dried to give 30 mg of desired product. m.p. 251°-254° C.; 1H NMR (TFA) δ: 9.25 (s, 1H), 8.65 (s, 1H), 8.55 (s, 1H), 8.22 (d, 1H), 5.37 (m, 1H), 5.15 (m, 1H), 4.38-4.75 (m, 2H), 4.10 (m, 2H), 2.45-2.85 (m, 2H), 2.00-2.40 (m, 2H), 1.22-1.65 (m, 4H).

reactant | ethyl 1-cyclopropyl-6-fluoro-7-[3-(1,2,3-triazol-1-yl)piperidin-1-yl]-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylate | 0.21 mmol, 90 mg | C1(CC1)N1C=C(C(C2=CC(=C(N=C12)N1CC(CCC1)N1N=NC=C1)F)=O)C(=O)OCC | C21H23FN6O3
reactant | HCl | 5 ml | Cl | ClH
product | 1-Cyclopropyl-6-fluoro-7-[3-(1,2,3-triazol-1-yl)piperidin -1-yl]-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid | 30 mg | C1(CC1)N1C=C(C(C2=CC(=C(N=C12)N1CC(CCC1)N1N=NC=C1)F)=O)C(=O)O | C19H19FN6O3
